US08492395B2
To a stirred mixture of 2-amino-3,5-dichlorobenzoic acid (5.0 g, 24 mmol) and imidazole (1.9 g, 28 mmol) in acetonitrile (60 mL), was added acetyl chloride (2.0 mL, 28 mmol) at room temperature. The mixture was stirred at room temperature overnight. To the mixture, was added 3-amino-piperidine-2,6-dione hydrogen chloride (3.9 g, 24 mmol), imidazole (3.5 g, 52 mmol) and triphenyl phosphite (6.8 mL, 26 mmol) and heated to reflux for 22 hours. The suspension was filtered and washed with acetonitrile (30 mL), water (2×30 mL), and ethyl acetate (30 mL) to give 3-(6,8-dichloro-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (4.65 g, 58% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.78 min (100%); mp: 238-240° C.; 1H NMR (DMSO-d6) δ 2.15-2.22 (m, 1H, CHH), 2.55-2.69 (m, 5H, CH3, 2CHH), 2.78-2.91 (m, 1H, CHH), 5.33 (dd, J=6, 11 Hz, 1H, NCH), 7.96 (d, J=2 Hz, 1H, Ar), 8.15 (d, J=2 Hz, 1H, Ar), 11.09 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.63, 23.85, 30.54, 56.92, 122.55, 24.24, 130.51, 131.72, 134.38, 142.25, 156.80, 159.07, 169.12, 172.53; LCMS: MH=340, 342; Anal Calcd for C14H11N3O3Cl2: C, 49.43; H, 3.26; N, 12.35; Cl, 20.84. Found: C, 49.21; H, 3.11; N, 12.30; Cl, 19.43.

reactant | 2-amino-3,5-dichlorobenzoic acid | 24 mmol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1Cl)Cl | C7H5Cl2NO2
reactant | imidazole | 28 mmol, 1.9 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 28 mmol, 2.0 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 24 mmol, 3.9 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 52 mmol, 3.5 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 26 mmol, 6.8 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 3-(6,8-dichloro-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 4.65 g, 58% yield | ClC=1C=C2C(N(C(=NC2=C(C1)Cl)C)C1C(NC(CC1)=O)=O)=O | C14H11Cl2N3O3
